US07947851B2
Step b) Formation of methyl 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl}-2-fluorobenzoate
The title compound was prepared following procedure described in Example 19, step c) from 4-fluoro-isophtalic acid-3-methylester (199 mg; 1.01 mmol), EDC.HCl (212 mg; 1.11 mmol) and N-{4-[(4-butylphenyl)ethynyl]benzyl}-1-hexanamine (350 mg, 1.01 mmol). Purification of the crude (503 mg) by flash chromatography using silicagel (EtOAc/c-Hex, 20:80) afforded 394 mg (74%) of the title compound as a colorless oil. HPLC, Rt: 6.19 min (purity: 99.8%), LC/MS, M+(ESI): 528.4.1HN (CDCl3) δ: 7.99 (d, J=5.1 Hz, 1H), 7.98 (m, 1H), 7.49 (d, J=8.1 Hz, 2H), 7.42 (d, J=8.1 Hz, 2H), 7.31 (m, 1H), 7.15 (d, J=8.1 Hz, 4H), 4.73 (s, 1H), 4.48 (s, 1H), 3.91 (s, 3H), 3.44 (s, 1H), 3.11 (s, 1H), 2.60 (t, J=7.6 Hz, 2H), 1.35 (m, 4H), 1.08-1.37 (m, 8H), 0.90 (t, J=7.3 Hz, 3H), 0.83 (m, 3H).

reactant | 4-fluoro-isophtalic acid-3-methylester | 1.01 mmol, 199 mg | COC(C=1C=C(C(=O)O)C=CC1F)=O | C9H7FO4
reactant | EDC.HCl | 1.11 mmol, 212 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-1-hexanamine | 1.01 mmol, 350 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCCCCCC)C=C1 | C25H33N
product | methyl 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl}-2-fluorobenzoate | 394 mg, 74% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2C=CC(=C(C(=O)OC)C2)F)CCCCCC)C=C1 | C34H38FNO3
